* Diode half-wave clipper benchmark
* Matches benchmarks/legacy/diode_clipper_hb_testbench.py
*
* Nodes: 0(GND), inp, mid, out
* inp — source node (after Vs)
* mid — between Rs and D1 (anode of diode)
* out — output across RL

.model D1N4007 D IS=76.9p RS=42.0m BV=1.00k IBV=5.00u CJO=26.5p M=0.333 N=1.45

vs inp 0 dc=0 sin 0 2.0 1k
rs inp mid 1k
d1 mid out D1N4007
rl out 0 10k

.options klu method=gear maxord=2

.control
  tran 1u 20m 0 1u
  wrdata /tmp/ngspice_diode_clipper.dat v(inp) v(out)
  set noaskquit
  quit
.endc

.end
